US09102591B2
2-Chloro-N-[[4,4-difluoro-1-(6-fluoro-3-pyridyl)cyclohexyl]methyl]-6-fluoro-benzamide
From 2-chloro-6-fluorobenzoic acid and C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=401.1, tR (minutes, Method C)=1.07

reactant | 2-chloro-6-fluorobenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)F | C7H4ClFO2
reactant | C-[4,4-difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)F)CN)F | C12H15F3N2
product | 2-Chloro-N-[[4,4-difluoro-1-(6-fluoro-3-pyridyl)cyclohexyl]methyl]-6-fluoro-benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)F)C(=CC=C1)F | C19H17ClF4N2O
